*****************************************************************
* NXP PSMN7R0-30YLC
*
* Polarity N-Channel
* Ratings 30V/7.100000E-003OHMS/61A
*
* Date Created Wed Aug 24 07:39:16 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R0-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 1500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00482737609705552 TC=0.00587015171035533,1.02183054267004E-07
RBD 9 4 0.00182154047034971 TC=0.00587015171035533,1.02183054267004E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1600000000
CGS 2 6 9.6e-10
RG 1 2 2.19663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	933
+ -10	932
+ -5	927
+ -4	922
+ -3	884
+ -2	698
+ -1	565
+ -0.5	478
+ -0.2	423
+ -0.1	405
+ 0	366.5
+ 0.1	332
+ 0.2	320
+ 0.5	280
+ 1	217
+ 2	156
+ 3	130
+ 4	116
+ 5	107
+ 6	100
+ 8	91.23
+ 10	85.03
+ 12	81
+ 15	76.56
+ 20	70.81


.MODEL MINT NMOS(Vto=2.05 Kp=1.7e+002 Nfs=470000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=0.850e-12
+ N=1 M=0.710000000000001 VJ=0.87 Fc=0.5 Cjo=1.162e-09 Tt=2.46e-08)

.ENDS

